US05824691
The mixture of methyl 3-(2-formylpyrrol-1-yl)benzoate (3.0 g), malonic acid (2.7 g), pyridine (30 ml) and piperidine (0.3 ml) was stirred for 3 hours at 90°-100° C. The reaction mixture was poured into water, and the mixture was adjusted to pH 1 with 6N-hydrochloric acid. The mixture was extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from ethanol to give methyl 3-[2-((E)-2-carboxyethenyl)pyrrol-1-yl)benzoate.

reactant | methyl 3-(2-formylpyrrol-1-yl)benzoate | 3.0 g | C(=O)C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C13H11NO3
reactant | malonic acid | 2.7 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.3 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | methyl 3-[2-((E)-2-carboxyethenyl)pyrrol-1-yl)benzoate | C(=O)(O)/C=C/C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C15H13NO4
